US04061637
The 3-methyl-4-phenyl-5-β-chloroethyl-4-thiazolin-2-one is prepared in the following manner. A solution of 21.9 g of 1-benzoyl-1-bromo-3-chloropropane and 5 g of ethyl N-methyl-thiocarbamate in 50 cc of dioxan is heated under reflux for 10 hours, and then evaporated to dryness under reduced pressure, M.P. = 88°-90° C (from hexane).

reactant | 1-benzoyl-1-bromo-3-chloropropane | 21.9 g | C(C1=CC=CC=C1)(=O)C(CCCl)Br | C10H10BrClO
reactant | ethyl N-methyl-thiocarbamate | 5 g | CNC(OCC)=S | C4H9NOS
solvent | dioxan | 50 cc | O1CCOCC1 | C4H8O2
product | 3-methyl-4-phenyl-5-β-chloroethyl-4-thiazolin-2-one | CN1C(SC(=C1C1=CC=CC=C1)CCCl)=O | C12H12ClNOS
